US06906072B1
Example 68 1-[(4-Cyano-4-(3-cyano-5-thienyl)-5-methylhexyl]-4-[2-(4-cyanophenoxy)ethyl]piperazine
In acetonitrile (5 ml) was dissolved 4-cyano-4-(3-cyano-5-thienyl)-5-methylhexanol (0.13 g). To the mixture were added triethylamine (0.21 ml) and mesyl chloride (0.048 ml), followed by stirring at room temperature for one hour. Water was added thereto, and the mixture was extracted with ethyl acetate and further washed with brine. After drying over anhydrous magnesium sulfate, the mixture was evaporated, to give a pale yellow oil. The resulting oil was dissolved in DMF (2 ml), followed by adding a DMF solution (4 ml) of 1-[2-(4-cyanophenoxy)ethyl]piperazine (0.14 g), triethylamine (0.21 ml) and sodium iodide (0.15 g). After stirring at 60° C. overnight, ethyl acetate was added thereto, and the mixture was washed with water and further brine. After drying over anhydrous magnesium sulfate, the solvent was evaporated, and the resulting residue was purified by NH silica gel column chromatography (hexane/ethyl acetate system), to give the title compound as a pale yellow oil (0.09 g, 33%).

reactant | 4-cyano-4-(3-cyano-5-thienyl)-5-methylhexanol | 0.13 g | C(#N)C(CCCO)(C(C)C)C1=CC(=CS1)C#N | C13H16N2OS
reactant | mesyl chloride | 0.048 ml | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | 1-[2-(4-cyanophenoxy)ethyl]piperazine | 0.14 g | C(#N)C1=CC=C(OCCN2CCNCC2)C=C1 | C13H17N3O
reactant | sodium iodide | 0.15 g | [I-].[Na+]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 0.21 ml | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
solvent | triethylamine | 0.21 ml | C(C)N(CC)CC | C6H15N
product | (4-Cyano-4-(3-cyano-5-thienyl)-5-methylhexyl]-4-[2-(4-cyanophenoxy)ethyl]piperazine | 0.09 g, 33% | C(#N)C(CCCN1CCN(CC1)CCOC1=CC=C(C=C1)C#N)(C(C)C)C1=CC(=CS1)C#N | C26H31N5OS
